US05958924
3.4. 6-chloro-4-(2-hydroxyethyl)-1-methyl-2(1H)-quinolone
3.0 g (79 mmol) of sodium borohydride are added to a suspension of 5.9 g (23.4 mmol) of methyl 6-chloro-1-methyl-1,2-dihydro-4-quinolineacetate in 10 ml of methanol and 100 ml of dry tetrahydrofuran, and the mixture is then heated to reflux for 9 hours. After cooling, the solvents are evaporated off under vacuum and the residue is taken up in 400 ml of dichloromethane and 100 ml of 3 N hydrochloric acid. The organic phase is washed with water, dried over sodium sulphate and filtered and the filtrate is condensed. The crude product is purified by flash chromatography on silica, eluting with a methanol/dichloromethane (5:95) mixture.

reactant | sodium borohydride | 79 mmol, 3.0 g | [BH4-].[Na+]
reactant | methyl 6-chloro-1-methyl-1,2-dihydro-4-quinolineacetate | 23.4 mmol, 5.9 g | ClC=1C=C2C(=CCN(C2=CC1)C)CC(=O)OC | C13H14ClNO2
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-chloro-4-(2-hydroxyethyl)-1-methyl-2(1H)-quinolone | ClC=1C=C2C(=CC(N(C2=CC1)C)=O)CCO | C12H12ClNO2
